US07855216B2
Step 3: 5-Fluoro-4-methylamino-nicotinonitrile
4-Chloro-5-fluoro-nicotinonitrile (3.5 g, 22.4 mmol) was suspended in 41% aqueous methylamine solution (35 mL). The resultant mixture was heated, with stirring, at 80° C. for 30 minutes. The mixture was cooled to room temperature and extracted with ethyl acetate. The organic layer was dried (Na2SO4) and concentrated in vacuo and the resultant residue triturated in diethyl ether to provide the title compound (2.35 g, 70%) as a white solid. 1H NMR (CDCl3) 8.29 (1H, s), 8.18 (1H, d, J=4.0 Hz), 5.04 (1H, s, br), 3.34 (3H, dd, J=2.2, 5.5 Hz).

reactant | 4-Chloro-5-fluoro-nicotinonitrile | 22.4 mmol, 3.5 g | ClC1=C(C=NC=C1C#N)F | C6H2ClFN2
reactant | methylamine | 35 mL | CN | CH5N
product | 5-Fluoro-4-methylamino-nicotinonitrile | 2.35 g, 70% | FC=1C=NC=C(C#N)C1NC | C7H6FN3
